US05166347
Preparation of N-cyano-N'-(3,4-dichlorobenzyl)-3-pyridinecarboximidamide (method i)
Isopropyl N-cyano-3-pyridinecarboximidate (0.50 g, 2.6 mmol) was dissolved in methanol (10 ml), and 3,4-dichlorobenzylamine (0.51 g, 2.9 mmol) was added. The mixture was stirred at room temperature for 3 hours. After the reaction was completed, the reaction solution was concentrated under reduced pressure, and the concentrated residue thus obtained was crystallized from diethyl ether to give the title compound (0.42 g, 1.4 mmol, yield: 52%) as colorless crystals.

reactant | Isopropyl N-cyano-3-pyridinecarboximidate | 2.6 mmol, 0.50 g | C(#N)N=C(OC(C)C)C=1C=NC=CC1 | C10H11N3O
reactant | 3,4-dichlorobenzylamine | 2.9 mmol, 0.51 g | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
solvent | methanol | 10 ml | CO | CH4O
product | N-cyano-N'-(3,4-dichlorobenzyl)-3-pyridinecarboximidamide | 1.4 mmol, 0.42 g, yield: 52% | C(#N)NC(=NCC1=CC(=C(C=C1)Cl)Cl)C=1C=NC=CC1 | C14H10Cl2N4
